US04128560
1-Methyl-1,2,3,4-tetrahydrocarbazole-1-propionic Acid (5; R1 = CH3, R2, R3, R4 and R7 = H, m = 3 and n = 2)
A solution of 1,2,3,3a,4,5-hexahydro-3a-methyl-6H-pyrido[3,2,1-jk]carbazol-6-one (0.5 g), described in Example 40, in ethanol (10 ml) and 10% sodium hydroxide solution (10 ml) is heated at reflux for 3 hr. The mixture is concentrated, diluted with water and washed with ether. The aqueous phase is rendered acidic with conc. HCl and extracted with chloroform. Concentration of the chloroform extract yields the title compound as a solid, mp 204°-206° C., identical to the product of Example 69.

reactant | 1,2,3,3a,4,5-hexahydro-3a-methyl-6H-pyrido[3,2,1-jk]carbazol-6-one | 0.5 g | CC12CCCC=3C=4C=CC=CC4N(C13)C(CC2)=O | C16H17NO
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-Methyl-1,2,3,4-tetrahydrocarbazole-1-propionic Acid | CC1(CCCC=2C3=CC=CC=C3NC12)CCC(=O)O | C16H19NO2
